US07105671B2
A mixture of 2-(3,4-dichloro-phenyl)-3-(3-hydroxy-cyclopentyl)-propionic acid methyl ester (25 mg, 0.08 mmol) and 2-aminothiazole (9.4 mg, 0.09 mmol) in a solution of magnesium methoxide in methanol (7.4 wt. %, 0.22 mL, 0.15 mmol) was heated to 110° C. for 18 h. At this time, the reaction mixture was cooled to 25° C. and then filtered through a pad of celite (methylene chloride as eluent). The filtrate was washed with a 1N aqueous hydrochloric acid solution. The organics were dried over sodium sulfate, filtered and then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 75/25 ethyl acetate/hexanes) afforded 2-(3,4-dichloro-phenyl)-3-(3-hydroxy-cyclopentyl)-N-thiazol-2-yl-propionamide (16.4 mg, 54%) as light tan oil: EI-HRMS m/e calcd for C17H18Cl2N2O2S (M+H)+ 385.0537, found 385.0542.

reactant | 2-(3,4-dichloro-phenyl)-3-(3-hydroxy-cyclopentyl)-propionic acid methyl ester | 0.08 mmol, 25 mg | COC(C(CC1CC(CC1)O)C1=CC(=C(C=C1)Cl)Cl)=O | C15H18Cl2O3
reactant | 2-aminothiazole | 0.09 mmol, 9.4 mg | NC=1SC=CN1 | C3H4N2S
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 0.15 mmol, 0.22 mL | CO | CH4O
product | 2-(3,4-dichloro-phenyl)-3-(3-hydroxy-cyclopentyl)-N-thiazol-2-yl-propionamide | 16.4 mg, 54% | ClC=1C=C(C=CC1Cl)C(C(=O)NC=1SC=CN1)CC1CC(CC1)O | C17H18Cl2N2O2S
